US09290490B2
Racemic ethyl trans-4-[1-(5-bromo-1,3-thiazol-2-yl)-2-fluoro-1-hydroxyethyl]cyclohexane-carboxylate (107 mg, 0.281 mmol), N-[3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-4-(trifluoromethyl)pyrimidin-2-amine (231 mg, 0.610 mmol), X-Phos (56 mg, 0.120 mmol), Pd2(dba)3 (52 mg, 0.056 mmol), cesium carbonate (429 mg, 1.32 mmol), 1,4-dioxane (3.0 ml) and water (0.3 ml) were combined and the vial was evacuated and purged with nitrogen 3 times then heated to 100° C. for 2 h. The mixture was then filtered and diluted with EtOAc. The organic phase was washed with water, brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified on silica gel (0-10% MeOH in DCM) to afford racemic ethyl trans-4-{2-fluoro-1-hydroxy-1-[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]ethyl}cyclohexanecarboxylate which was used without further purification. MS ESI calc'd. for C26H28F4N4O3S [M+H]+ 553. found 553.

reactant | Racemic ethyl trans-4-[1-(5-bromo-1,3-thiazol-2-yl)-2-fluoro-1-hydroxyethyl]cyclohexane-carboxylate | 0.281 mmol, 107 mg | BrC1=CN=C(S1)C(CF)(O)[C@@H]1CC[C@H](CC1)C(=O)OCC | C14H19BrFNO3S
reactant | N-[3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-4-(trifluoromethyl)pyrimidin-2-amine | 0.610 mmol, 231 mg | CC=1C=C(C=C(C1)B1OC(C(O1)(C)C)(C)C)NC1=NC=CC(=N1)C(F)(F)F | C18H21BF3N3O2
reactant | X-Phos | 0.120 mmol, 56 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | cesium carbonate | 1.32 mmol, 429 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | Pd2(dba)3 | 0.056 mmol, 52 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | 0.3 ml | O | H2O
solvent | 1,4-dioxane | 3.0 ml | O1CCOCC1 | C4H8O2
product | racemic ethyl trans-4-{2-fluoro-1-hydroxy-1-[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]ethyl}cyclohexanecarboxylate | FCC(C=1SC(=CN1)C1=CC(=CC(=C1)NC1=NC=CC(=N1)C(F)(F)F)C)(O)[C@@H]1CC[C@H](CC1)C(=O)OCC | C26H28F4N4O3S
